US07638118B2
3-[bis-(3-dimethylamino-propyl)-carbamoyl]-acrylic acid ethyl ester
3,3′-Iminobis(N,N-dimethyl-propylamine) (10.66 g, 55 mmol) and DMAP (54 mg) are dissolved in toluene (60 ml). To this solution is added the solution of fumaric acid monoethyl ester mono chloride (8.15 g, 50 mmol) in toluene (20 ml) over 20 min via syringe pump. The mixture is further stirred for 3 h at 23° C., then poured on a mixture of ice and sat. aq. NaHCO3-solution. The product is extracted twice with EtOAc (100 ml) and the organic layers washed twice with brine, combined and dried over MgSO4.

reactant | 3,3′-Iminobis(N,N-dimethyl-propylamine) | 55 mmol, 10.66 g | N(CCCN(C)C)CCCN(C)C | C10H25N3
reactant | fumaric acid monoethyl ester mono chloride | 50 mmol, 8.15 g | [Cl-].C(C)OC(\C=C\C(=O)O)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 54 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[bis-(3-dimethylamino-propyl)-carbamoyl]-acrylic acid ethyl ester | C(C)OC(C=CC(N(CCCN(C)C)CCCN(C)C)=O)=O | C16H31N3O3
